US09353066B2
Methanesulfonyl chloride (0.017 g, 0.150 mmol) and triethylamine (0.028 ml, 0.200 mmol) were added to a solution of 5-methyl-N3-[4-(trifluoromethyl)pyrimidin-2-yl]biphenyl-3,3′-diamine (0.034 g, 0.100 mmol) in DCM (1.00 ml) and stirred for 14 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO (1 mL), then purified by mass triggered reverse phase HPLC to give N-(3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)methanesulfonamide. MS ESI calcd. for C19H18F3N4O2S [M+H]+ 423, found 423. 1H NMR (600 MHz, DMSO-d6) δ 10.21 (s, 1H), 8.78 (d, J=4.9 Hz, 1H), 7.83 (s, 1H), 7.52 (s, 1H), 7.40 (dt, J=15.7, 4.8 Hz, 2H), 7.30 (d, J=7.7 Hz, 1H), 7.23 (d, J=4.9 Hz, 1H), 7.17 (dd, J=8.0, 1.3 Hz, 1H), 7.04 (s, 1H), 2.99 (s, 3H), 2.32 (s, 3H).

reactant | Methanesulfonyl chloride | 0.150 mmol, 0.017 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.200 mmol, 0.028 ml | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-N3-[4-(trifluoromethyl)pyrimidin-2-yl]biphenyl-3,3′-diamine | 0.100 mmol, 0.034 g | CC=1C=C(C=C(C1)C1=CC(=CC=C1)N)NC1=NC=CC(=N1)C(F)(F)F | C18H15F3N4
solvent | DCM | 1.00 ml | C(Cl)Cl | CH2Cl2
product | N-(3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)methanesulfonamide | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)NS(=O)(=O)C | C19H17F3N4O2S
